US08957068B2
To a round bottom flask with stir bar was added (S)-4-(1-(tert-butoxycarbonylamino)ethyl)-2-chlorobenzoic acid (450 mg, 1.20 mmol), cyclopentylamine (355 μL, 3.60 mmol), EDC HCl (460 mg, 2.40 mmol), 1-hydroxy-7-aza-benzotriazole (229 mg, 1.68 mmol) and DMF (6 mL). To this mixture was then added DIEA (629 μL, 3.60 mmol). Reaction mixture was allowed to stir at room temperature for 18 hours. The reaction mixture was diluted with water and extracted with EtOAc. The organic phases were combined, washed with twice with water, brine, dried (Na2SO4), filtered and concentrated to a brown crystalline of (S)-tert-butyl 1-(3-chloro-4-(cyclopentylcarbamoyl)phenyl)ethylcarbamate (476 mg, 1.17 mmol, 97% yield). LCMS m/z 367.0 (M+H)+, Rt 0.90 min.

reactant | (S)-4-(1-(tert-butoxycarbonylamino)ethyl)-2-chlorobenzoic acid | 1.20 mmol, 450 mg | C(C)(C)(C)OC(=O)N[C@@H](C)C1=CC(=C(C(=O)O)C=C1)Cl | C14H18ClNO4
reactant | cyclopentylamine | 3.60 mmol, 355 μL | C1(CCCC1)N | C5H11N
reactant | EDC HCl | 2.40 mmol, 460 mg | CCN=C=NCCCN(C)C.Cl
reactant | 1-hydroxy-7-aza-benzotriazole | 1.68 mmol, 229 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | DIEA | 3.60 mmol, 629 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | water | O | H2O
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | (S)-tert-butyl 1-(3-chloro-4-(cyclopentylcarbamoyl)phenyl)ethylcarbamate | 1.17 mmol, 476 mg, 97% yield | ClC=1C=C(C=CC1C(NC1CCCC1)=O)[C@H](C)NC(OC(C)(C)C)=O | C19H27ClN2O3
